US05520960
PMDA/4,4'-ODA resin was prepared by reacting 16.019 g (0.080 moles) of 4,4'-ODA with 17.450 g (0.080 moles) of PMDA In 189.7 g DMAc. To 10.004 g of this resin was added 0.521 g Agtfa in 1.996 g DMAc. The mixture was stirred vigorously with a metal spatula and cast 0.018" thick on a glass plate. The silver ion-containing polyamic acid film was thermally converted to the corresponding surface conducting polyimide by heating for 1 hour each at 100°, 200°, and 300° C. and postcuring 2 hours at 300° C. The resulting flexible, reflective film had a conductivity of 1.7×10-3- -6.2×10-3 Ω-1 by four point probe.

reactant | 4,4'-ODA | 0.080 moles, 16.019 g | C1=CC(=CC=C1N)OC2=CC=C(C=C2)N | C12H12N2O
reactant | PMDA | 0.080 moles, 17.450 g | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
solvent | DMAc | 189.7 g | CC(=O)N(C)C | C4H9NO
solvent | DMAc | 1.996 g | CC(=O)N(C)C | C4H9NO
product | PMDA 4,4'-ODA | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O.C1=CC(=CC=C1N)OC2=CC=C(C=C2)N | InChI=1S/C12H12N2O.C10H2O6/c13-9-1-5-11(6-2-9)15-12-7-3-10(14)4-8-12;11-7-3-1-4-6(10(14)16-8(4)12)2-5(3)9(13)15-7/h1-8H,13-14H2;1-2H
